US05866576
A mixture of 1-(7,8-dihydroxyoctyl)-3,7-dimethylxanthine, prepared as described above, (2.11 g, 6 mmol) was stirred with a 30% solution of hydrogen bromide in acetic acid (3.58 mL, 18 mmol) for 90 minutes. The mixture was then added to a flask containing aqueous sodium bicarbonate solution (4 g in 50 mL) and dichloromethane (30 mL). After 10 minutes of vigorous stirring the layers were separated and the aqueous portion was washed with dichloromethane (2×50 mL). The combined organic portions were dried over sodium sulfate and the solvent was evaporated under vacuum, yielding 2.51 g (94%) 1-(7-acetoxy-8-bromooctyl)-3,7-dimethylxanthine (inventive compound no. 1514) as a yellow oil.

reactant | 1-(7,8-dihydroxyoctyl)-3,7-dimethylxanthine | OC(CCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C15H24N4O4
reactant | hydrogen bromide | Br | BrH
reactant | acetic acid | 18 mmol, 3.58 mL | C(C)(=O)O | C2H4O2
reactant | sodium bicarbonate | 50 mL, 4 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(7-acetoxy-8-bromooctyl)-3,7-dimethylxanthine | 2.51 g, 94% | C(C)(=O)OC(CCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CBr | C17H25BrN4O4
